US07592358B2
IP 5a. 1-benzyl-4-trifluoromethylpyridinium chloride
A solution of 7.59 mL (65.94 mmol) benzyl chloride in 10 mL of acetonitrile was added to a solution of 10.00 g (65.94 mmol) of 4-trifluoromethylpyridine in 40 mL of acetonitrile and the mixture was stirred for 2 hours at 80° C. Another 1.5 mL of benzyl chloride was added and the mixture was stirred for 22 hours at 80° C. The reaction mixture was cooled to RT and combined with MTBE. The precipitate was filtered off, washed with MTBE, dried in vacuo, and stored in the desiccator. Yield: 14.48 g (80% of theoretical); C13H11F3N.Cl (M=273.681); calc.: molpeak (M+H)+: 238; found: molpeak (M+H)+: 238.

reactant | benzyl chloride | 65.94 mmol, 7.59 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4-trifluoromethylpyridine | 65.94 mmol, 10.00 g | FC(C1=CC=NC=C1)(F)F | C6H4F3N
reactant | benzyl chloride | 1.5 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | MTBE | CC(C)(C)OC | C5H12O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 1-benzyl-4-trifluoromethylpyridinium chloride | [Cl-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C(F)(F)F | InChI=1S/C13H11F3N.ClH/c14-13(15,16)12-6-8-17(9-7-12)10-11-4-2-1-3-5-11;/h1-9H,10H2;1H/q+1;/p-1
